US07338959B2
5-(4-{[2-(4-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-2-methyl-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-chloro-pyrimidin-4-yl)-N2-(4-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (99 mg, 0.25 mmol) and 5-amino-2-methyl-benzenesulfonamide (47 mg, 0.25 mmol) as a white solid (69 mg, 48%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ10.28 (br s, 1H), 9.61 (br s, 1H), 8.45 (s, 1H), 7.86 (d, J=2.1 Hz, 1H), 7.63 (m, 1H), 7.52-7.59 (m, 3H), 7.37 (s, 1H), 7.31 (s, 2H), 7.13-7.26 (m, 4H), 5.74 (d, J=4.5 Hz, 1H), 4.73 (d, J=4.5 Hz, 2H), 3.71 (s, 3H), 3.48 (s, 3H), 2.50 (s, 3H). MS (ESI) m/z=547 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(4-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 99 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)F)C)C=C1)C | C20H18ClFN6
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.25 mmol, 47 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 5-(4-{[2-(4-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-2-methyl-benzenesulfonamide hydrochloride | Cl.FC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC=3C=CC(=C(C3)S(=O)(=O)N)C)C)C=C1 | InChI=1S/C27H27FN8O2S.ClH/c1-17-4-9-20(14-24(17)39(29,37)38)32-26-30-13-12-25(34-26)35(2)21-10-11-23-22(15-21)33-27(36(23)3)31-16-18-5-7-19(28)8-6-18;/h4-15H,16H2,1-3H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
